US07247734B2
This compounds was synthesised in the same manner as described in the preceding experiment. 3-(4-Bromo-phenyl)-7-hydroxy-chromen-4-one (0.1 g, 0.3 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). The crude solid product was washed in hot ether to give 4-[4-(4-Bromo-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol as a white solid (0.069, 60.6%); Rf 0.44 Cf SM 0.79 ethyl acetate/hexane (75/25).

reactant | 3-(4-Bromo-phenyl)-7-hydroxy-chromen-4-one | 0.3 mmol, 0.1 g | BrC1=CC=C(C=C1)C1=COC2=CC(=CC=C2C1=O)O | C15H9BrO3
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(4-Bromo-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol | BrC1=CC=C(C=C1)C=1C(=NNC1)C1=C(C=C(C=C1)O)O | C15H11BrN2O2
